US07491716B2
N-[benzyl]-2-amino-5-isopropylpyridine
Dissolve 2-chloro-5-isopropylpyridine (5 g, 0.032 mol), benzylamine (6.8 g, 0.064 mol), Biphenyl-2-yl-dicyclohexyl-phosphine (0.46 g, 1.3 mmol), Pd(OAc)2 (0.14 g, 0.64 mmol), and sodium tert-butoxide (4.3 g, 0.045 mol) in 60 mL of toluene. Deoxygenate three times. Heat at 100° C. for 18 hours. Cool and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 1:1 hexanes:ethyl acetate to provide 5.5 g of the desired compound.

reactant | 2-chloro-5-isopropylpyridine | 0.032 mol, 5 g | ClC1=NC=C(C=C1)C(C)C | C8H10ClN
reactant | benzylamine | 0.064 mol, 6.8 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butoxide | 0.045 mol, 4.3 g | CC(C)([O-])C.[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.64 mmol, 0.14 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Biphenyl-2-yl-dicyclohexyl-phosphine | 1.3 mmol, 0.46 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
product | N-[benzyl]-2-amino-5-isopropylpyridine | 5.5 g | C(C1=CC=CC=C1)N1C(C=CC(=C1)C(C)C)N | C15H20N2
